US04024139
Preparation of 8-chloro-2-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b)(1,3)benzoxazin-10-one
A mixture of 30 g. of γ -valerolactone, 30 ml. of distilled thionyl chloride and 0.5 g. of zinc chloride was heated on a steam bath overnight and then distilled at 15 mm. The distillate was redistilled at 69- 70° and 15 mm. giving 34 g. of 4-chlorovaleryl chloride. The acid chloride was reduced catalytically, reacted with 5-chlorosalicylhydroxamic acid and the resulting intermediate was ring-closed according to the method described in Example 3. The product after recrystallization from trichloroethylene weighed 8.5 g. and melted at 210- 213° C.

reactant | valerolactone | C1(CCCCO1)=O | C5H8O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chlorovaleryl chloride | ClC(CCC(=O)Cl)C | C5H8Cl2O
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 8-chloro-2-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b)(1,3)benzoxazin-10-one | ClC=1C=CC2=C(C(N3C(O2)CCC(O3)C)=O)C1 | C12H12ClNO3
